US08633186B2
2-nitro-6-(phenylthio)benzonitrile
To a mixture of 2,6-dinitrobenzonitrile (2.0 g, 10.36 mmol) and K2CO3 (1.43 g, 10.36 mmol) in 5 mL of anhydrous DMF was added PhSH (1.14 ml in 5 mL of DMF) dropwise under nitrogen at 0° C. After the completion of addition, the reaction mixture was stirred at 0° C. for 0.5 hr. Then the reaction mixture was poured into 50 mL of water, the resultant precipitation was collected by filtration, washed with water and dried in the air to give the title product.

reactant | 2,6-dinitrobenzonitrile | 10.36 mmol, 2.0 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | K2CO3 | 10.36 mmol, 1.43 g | C(=O)([O-])[O-].[K+].[K+]
reactant | PhSH | 1.14 ml | C1(=CC=CC=C1)S | C6H6S
reactant | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-nitro-6-(phenylthio)benzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)SC1=CC=CC=C1 | C13H8N2O2S
